US05143920
A solution of 3-isobutyryl-4-chloro-8-methoxyquinoline (1.32 g, 5 mmol) and 4-amino-3-methylphenol (0.62 g, 5 mmol) in dioxan (50 ml) was heated at reflux for 1 hour, then cooled and the solid filtered off. This was taken up in a hot mixture of ethanol and tributylamine, cooled, and the solid filtered off. Recrystallisation from ethanol gave 3-isobutyryl-4-(4-hydroxy-2-methylphenylamino)-8-methoxyquinoline (0.97 g, 55%), m.p. 243°-5°.

reactant | 3-isobutyryl-4-chloro-8-methoxyquinoline | 5 mmol, 1.32 g | C(C(C)C)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | 4-amino-3-methylphenol | 5 mmol, 0.62 g | NC1=C(C=C(C=C1)O)C | C7H9NO
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-isobutyryl-4-(4-hydroxy-2-methylphenylamino)-8-methoxyquinoline | 0.97 g, 55% | C(C(C)C)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)OC | C21H22N2O3
